US08252935B2
a) 4-Methyl-2-[4′-trifluoromethyl-5-(6-trifluoromethyl-pyridin-2-yl)-biphenyl-3-yl]-pentanoic acid ethyl ester
To 4-Methyl-2-(5-trifluoromethanesulfonyloxy-4′-trifluoromethyl-biphenyl-3-yl)-pentanoic acid ethyl ester, compound 1g (1.09 mg, 2.13 mmol) in dimethoxyethane (15 ml), was added 6-(Trifluoromethyl)pyridine-2-boronic acid pinacol ester (750 mg, 2.56 mmol), and 2M Na2CO3 (2.1 mL, 4.26 mmol). The mixture was degassed, tetrakis(triphenylphosphine)palladium (0) (490 mg, 0.426 mmol) was added and the mixture was degassed, and then heated to 80° C. After 1 hr, the reaction was cooled to room temperature, diluted with EtOAc and washed with NaHCO3 and brine. Purification by column chromatography gave the title compound (987 mg, 91%). Calcd for C27H25F6NO2 (M+H) 509.44, Found 510.3.

reactant | 4-Methyl-2-(5-trifluoromethanesulfonyloxy-4′-trifluoromethyl-biphenyl-3-yl)-pentanoic acid ethyl ester | C(C)OC(C(CC(C)C)C=1C=C(C=C(C1)OS(=O)(=O)C(F)(F)F)C1=CC=C(C=C1)C(F)(F)F)=O | C22H22F6O5S
reactant | 6-(Trifluoromethyl)pyridine-2-boronic acid pinacol ester | 2.56 mmol, 750 mg | FC(C1=CC=CC(=N1)B1OC(C)(C)C(C)(C)O1)(F)F | C12H15BF3NO2
reactant | Na2CO3 | 4.26 mmol, 2M, 2.1 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | dimethoxyethane | 15 ml | C(OC)COC | C4H10O2
catalyst | tetrakis(triphenylphosphine)palladium | 0.426 mmol, 490 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-Methyl-2-[4′-trifluoromethyl-5-(6-trifluoromethyl-pyridin-2-yl)-biphenyl-3-yl]-pentanoic acid ethyl ester | 987 mg, 91% | C(C)OC(C(CC(C)C)C=1C=C(C=C(C1)C1=NC(=CC=C1)C(F)(F)F)C1=CC=C(C=C1)C(F)(F)F)=O | C27H25F6NO2
